US07220862B2
[2-(2-Amino-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine
Into a flame dried flask, N-(1-benzyl-piperidin-4-yl)-2-(2-nitro-phenyl)-acetamide (3.2 g, 9.06 mmol) and lithium aluminium hydride (1.0 g, 18.12 mmol) were combined. 1,4-Dioxane (15 mL) was added and the mixture slowly brought to reflux over 1 h and stirred at reflux for 16 h. The reaction mixture was cooled to 0° C. and excess lithium aluminium hydride destroyed by dropwise addition of methanol, followed by careful addition of 20% potassium hydroxide. The aluminum salts were filtered, the filtrate concentrated and used as is for the next reaction.

reactant | N-(1-benzyl-piperidin-4-yl)-2-(2-nitro-phenyl)-acetamide | 9.06 mmol, 3.2 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(CC1=C(C=CC=C1)[N+](=O)[O-])=O | C20H23N3O3
reactant | lithium aluminium hydride | 18.12 mmol, 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | 1,4-Dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | [2-(2-Amino-phenyl)-ethyl]-(1-benzyl-piperidin-4-yl)-amine | NC1=C(C=CC=C1)CCNC1CCN(CC1)CC1=CC=CC=C1 | C20H27N3
